US03992434
To a stirred solution of 25 grams (0.1 mole) of 3,5-di-t-butyl-4-hydroxybenzoic acid and 29.3 grams (0.1 mole) of N-(3,5-di-t-butyl-4'hydroxybenzoyloxyethyl)amine in 100 milliliters of drytetrahydrofuran was added dropwise a solution of 20.6 grams (0.1 mole) of dicyclohexylcarbodiimide in 75 milliliters of dry tetrahydrofuran. The mixture was stirred for several hours and the white solid (dicyclohexyl urea) was filtered off and discarded. Evaporation of the filtrate gave a product which was recrystallized from 1:1 benzene-hexane to give N-(3',5'di-t-butyl-4'-hydroxybenzoyloxyethyl)-3,5-di-t-butyl-4-hydroxybenzamide; melting point 185°-187° C. When tested by the procedure of Example 2, the sample containing this compound lasted 1,000 hours, about 3.3 times as long as the control.

reactant | 3,5-di-t-butyl-4-hydroxybenzoic acid | 0.1 mole, 25 grams | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
reactant | N-(3,5-di-t-butyl-4'hydroxybenzoyloxyethyl)amine | 0.1 mole, 29.3 grams | C(C)(C)(C)C=1C=C(C(=O)OCCN)C=C(C1O)C(C)(C)C | C17H27NO3
reactant | dicyclohexylcarbodiimide | 0.1 mole, 20.6 grams | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 75 milliliters | O1CCCC1 | C4H8O
product | N-(3',5'di-t-butyl-4'-hydroxybenzoyloxyethyl)-3,5-di-t-butyl-4-hydroxybenzamide | C(C)(C)(C)C=1C=C(C(=O)OCCNC(C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)=O)C=C(C1O)C(C)(C)C | C32H47NO5
